US05409943
(a) 2-Amino-3-(2,6-difluorobenzyloxy)-6-methylpyridine
A mixture of 2,6-difluorobenzyl bromide (25 g, 0.12 1 mol) and 2-amino-3-hydroxy-6methylpyridine (13.6 g, 0.11 mol) in 40% aqueous sodium hydroxide solution (200 ml) and dichloromethane (200 ml) was treated with Adogen 464 (10 ml) and stirred vigorously at room temperature for 16 hours. A further 200 ml of water was added and the product extracted into dichloromethane, dried, and the solvent evaporated to obtain the product (25.8 g, 94%), m.p. 121°-123° C.

reactant | 2,6-difluorobenzyl bromide | 1 mol, 25 g | FC1=C(CBr)C(=CC=C1)F | C7H5BrF2
reactant | 2-amino-3-hydroxy-6methylpyridine | 0.11 mol, 13.6 g | NC1=NC(=CC=C1O)C | C6H8N2O
reactant | water | 200 ml | O | H2O
solvent | sodium hydroxide | 200 ml | [OH-].[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
catalyst | Adogen 464 | 10 ml | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
product | 2-Amino-3-(2,6-difluorobenzyloxy)-6-methylpyridine | 25.8 g, 94% | NC1=NC(=CC=C1OCC1=C(C=CC=C1F)F)C | C13H12F2N2O
